US04064245
1-(4-phenoxyphenyl)-piperazine
To a solution of 62.4 parts of bis-(β-bromoethyl)amine dihybromide in 160 parts of methanol there were added 37 parts of para-phenoxyaniline. The mixture was refluxed for 10 hours. 10.6 parts of Na2CO3 were then added and the reaction mixture was refluxed for a further 10 hours. After cooling, the precipitate was filtered off, washed with 80 parts of methanol and dried.

reactant | bis-(β-bromoethyl)amine | BrCCNCCBr | C4H9Br2N
reactant | para-phenoxyaniline | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | CO | CH4O
product | 1-(4-phenoxyphenyl)-piperazine | O(C1=CC=CC=C1)C1=CC=C(C=C1)N1CCNCC1 | C16H18N2O
